US09024093B2
(4-Bromophenyl)tributylstannane (S63)
To p-dibromobenzene (932 mg, 4.00 mmol, 1.00 equiv) in THF (10 mL) at −78° C. was added nBuLi (2.5 M in hexane, 1.6 mL, 4.0 mmol, 1.0 equiv). The reaction mixture was stirred at −78° C. for 30 min before the addition of nBu3SnCl (1.30 g, 4.00 mmol, 1.00 equiv). After stirring for 1.0 hr at −78° C., the reaction mixture was warmed to 23° C. and the solvent was removed in vacuo. the residue was purified by fractional distillation to afford 1.45 g of the title compound as a colorless oil (81% yield).

reactant | p-dibromobenzene | 4.00 mmol, 932 mg, 1.00 equiv | BrC1=CC=C(C=C1)Br | C6H4Br2
reactant | nBuLi | 4.0 mmol, 2.5 M, 1.6 mL, 1.0 equiv | [Li]CCCC
reactant | nBu3SnCl | 4.00 mmol, 1.30 g, 1.00 equiv | [Sn](CCCC)(CCCC)(CCCC)Cl
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | (4-Bromophenyl)tributylstannane | 1.45 g, 81% yield | BrC1=CC=C(C=C1)[Sn](CCCC)(CCCC)CCCC | InChI=1S/C6H4Br.3C4H9.Sn/c7-6-4-2-1-3-5-6;3*1-3-4-2;/h2-5H;3*1,3-4H2,2H3;
